US04235776
A hydrolysis mixture was prepared from 5.1 g. of dl-2-acetyl-5-acetamido-4,5,6,7-tetrahydro-2H-benzo[c]pyrrole, 50 g. of sodium hydroxide, 50 ml. of water, and 200 ml. of ethanol. The mixture was heated to refluxing temperature under a nitrogen atmosphere for about 16 hours and was then cooled. The cooled mixture was diluted with water. The alkaline aqueous mixture was extracted several times with methylene dichloride, the methylene dichloride extracts were combined and the combined extracts washed with saturated aqueous sodium chloride and dried. Evaporation of the solvent therefrom yielded a residue comprising dl-5-amino-4,5,6,7-tetrahydro-2H-benzo[c]pyrrol formed in the above reaction. A chloroform solution of the residue was filtered through 105 g. of alumina (grade II). Concentration of the resulting filtrate yielded 2.52 g. of a yellow solid comprising dl-5-amino-4,5,6,7-tetrahydro-2H-benzo[c]pyrrole.

reactant | 2-acetyl-5-acetamido-4,5,6,7-tetrahydro-2H-benzo[c]pyrrole | C(C)(=O)N1C=C2C(=C1)CC(CC2)NC(C)=O | C12H16N2O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | dl-5-amino-4,5,6,7-tetrahydro-2H-benzo[c]pyrrol | C1CC2=CNC=C2CC1N | C8H12N2
